US06492403B1
c) Methyl 5-methylthio-4-(4-phenyl(1,3-oxazol-2-yl))thiophene-2-carboxylate
To a cooled (0° C.) solution of 465 mg (1.33 mmol) methyl 5-methylthio-4-[N-(2-oxo-1-phenylethyl)carbamoyl]thiophene-2-carboxylate (as prepared in the previous step) in 6 mL of anhyd DMF was added 186 μL (2.00 mmol) of phosphorus oxychloride. After stirring for 14 h at room temperature, the mixture was treated with 10 mL of saturated NaHCO3 and concentrated to dryness under high vacuum. The resulting residue was partitioned between 80 mL of EtOAc and 60 mL of water. The aqueous layer was extracted with EtOAc (2×10 mL) and the combined organic phases washed with brine (60 mL), and dried over Na2SO4. The resulting 406 mg of amber-colored solid was recrystallized from CH2Cl2—Et2O to remove the majority of a polar impurity as a cream-colored solid. The remaining mother liquors were chromatographed on a 10 g silica SPE column (Waters Sep-Pak) with a gradient of 40-100% CH2Cl2-hexane and the resulting residue triturated with Et2O-hexane (2:1)) to afford the title compound as a light beige solid (114 mg, 26%). 1H-NMR (300 MHz, CDCl3) δ8.24 (s, 1H), 7.93 (s, 1H), 7.83 (m, 2H), 7.43 (m, 2H), 7.33 (m, 1H), 3.91 (s, 3H), and 2.72 (s, 3H). Mass spectrum (ESI) calcd. for C16H13NO3S2: 332.0 (M+H). Found: 332.2.

reactant | methyl 5-methylthio-4-[N-(2-oxo-1-phenylethyl)carbamoyl]thiophene-2-carboxylate | 1.33 mmol, 465 mg | CSC1=C(C=C(S1)C(=O)OC)C(NC(C=O)C1=CC=CC=C1)=O | C16H15NO4S2
reactant | phosphorus oxychloride | 2.00 mmol, 186 μL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | Methyl 5-methylthio-4-(4-phenyl(1,3-oxazol-2-yl))thiophene-2-carboxylate | 114 mg, 26% | CSC1=C(C=C(S1)C(=O)OC)C=1OC=C(N1)C1=CC=CC=C1 | C16H13NO3S2
